US06521649B1
Production of t-butylammonium 4-ethyl-1,2,3-thiadiazole-5-carboxylate (Compound No. 185)
In 3 ml of ethanol was dissolved 0.4 g of 4-ethyl-1,2,3-thiadiazole-5-carboxylic acid, after which 0.19 g of t-butylamine was added to the solution and the reaction was carried out at room temperature for 24 hours.

reactant | 4-ethyl-1,2,3-thiadiazole-5-carboxylic acid | 0.4 g | C(C)C=1N=NSC1C(=O)O | C5H6N2O2S
reactant | t-butylamine | 0.19 g | C(C)(C)(C)N | C4H11N
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | t-butylammonium 4-ethyl-1,2,3-thiadiazole-5-carboxylate | C(C)C=1N=NSC1C(=O)[O-].C(C)(C)(C)[NH3+] | InChI=1S/C5H6N2O2S.C4H11N/c1-2-3-4(5(8)9)10-7-6-3;1-4(2,3)5/h2H2,1H3,(H,8,9);5H2,1-3H3
